US05864039
4-Amino-N-((1-(4-benzylaminobutyl)piperidin-4-yl)methyl)-5-chloro-2-methoxybenzamide (0.5 g) as starting compound, acetaldehyde (0.07 ml) and sodium cyanoborohydride (0.15 g) were reacted and treated in the same manner as in Example 136 to give 0.35 g of 4-amino-5-chloro-N-((1-(4-(N-ethyl-N-benzylamino)butyl)piperidin-4-yl)methyl)-2-methoxybenzamide.

reactant | 4-Amino-N-((1-(4-benzylaminobutyl)piperidin-4-yl)methyl)-5-chloro-2-methoxybenzamide | 0.5 g | NC1=CC(=C(C(=O)NCC2CCN(CC2)CCCCNCC2=CC=CC=C2)C=C1Cl)OC | C25H35ClN4O2
reactant | acetaldehyde | 0.07 ml | C(C)=O | C2H4O
reactant | sodium cyanoborohydride | 0.15 g | C(#N)[BH3-].[Na+]
product | 4-amino-5-chloro-N-((1-(4-(N-ethyl-N-benzylamino)butyl)piperidin-4-yl)methyl)-2-methoxybenzamide | 0.35 g | NC1=CC(=C(C(=O)NCC2CCN(CC2)CCCCN(CC2=CC=CC=C2)CC)C=C1Cl)OC | C27H39ClN4O2
